RIPPLE CARRY ADDER

.option filetype=ascii

***LIBRERIE***
.INCLUDE ST65LIKE_cell_library_v2020_1.net
.INCLUDE 16nm_HP.pm

***PARAMETRI GLOBALI***
.PARAM vthVARn=0.3423
.PARAM vthVARp=-0.23122
.PARAM ndepVARn=3.96e+018
.PARAM ndepVARp=1.68e+018
.PARAM toxpVAR=5.21e-010
.PARAM Lmin=51.71336n
.PARAM Wmin=36.05883n
.PARAM XXX=1
.PARAM tr=50p

***DEFINIZIONE DEL SOTTOCIRCUITO***
.subckt RCA_SUB 0 Vdd sum0 sum1 cout1 cin0 a0in a1in b0in b1in XX=1 	
	xfa0 0 Vdd sum0 cout0 cin0 a0in b0in FA_SUB XX=XXX
	xfa1 0 Vdd sum1 cout1 cout0 a1in b1in FA_SUB XX=XXX
.ends RCA_SUB

***DICHIARAZIONE DEL COMPONENTE***
xrca 0 Vcc S0 S1 Cout Cin A0 A1 B0 B1  RCA_SUB XX=XXX

.PRINT tran V(A0) V(B0) V(A1) V(B1) V(S0) V(S1)
.TRAN 0.1p 820p

*A0=1 A1=0 B0=0 B1=0
V0 A0 0 PWL(0 0 5p 0 6p 1 820p 1)
V1 A1 0 PWL(0 0 820p 0)
V2 B0 0 PWL(0 0 820p 0)
V3 B1 0 PWL(0 0 820p 0) 

V_dd Vcc 0 1

.end
